US04638000
In 10 ml of ethanol is dissolved 0.43 g of sodium, and 5 g of ethyl 3-(1-benzyloxycarbonyl-4-piperidyl)propionate and 2.75 g of diethyl oxalate are added to the solution. The solvent is evaporated off under reduced pressure, while heating on a warm-water bath at 60° to 70° C. for 45 minutes. After cooling, the resulting brown viscous material is treated with 200 ml of water, and the mixture is made weakly acidified with concentrated hydrochloric acid. The mixture is extracted with 300 ml of ethyl acetate, and the extract is dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Ten (10) % aqueous dimethylformamide (50 ml) and 0.73 g of lithium chloride are added to the resulting yellow oily material, followed by stirring at 100° C. for 30 minutes, at 120° to 130° C. for 30 minutes and then at 140° C. for 45 minutes. After cooling, 300 ml of water is added to the reaction solution, and the mixture is extracted with 300 ml of ethyl acetate. The extract is washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 4.5 g of ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)-2-oxobutyrate as a pale brown oil.

reactant | sodium | 0.43 g | [Na] | Na
reactant | ethyl 3-(1-benzyloxycarbonyl-4-piperidyl)propionate | 5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(=O)OCC | C18H25NO4
reactant | diethyl oxalate | 2.75 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 4-(1-benzyloxycarbonyl-4-piperidyl)-2-oxobutyrate | 4.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCC(C(=O)OCC)=O | C19H25NO5
